US07538123B2
(2) Synthesis of 3-amino-4-(2,2-dimethoxyethyl)benzamide
19.5 g of 3-nitro-4-methylbenzamide and 30 g of dimethylformamide dimethyl acetal were dissolved in 200 ml of dimethylformamide. The obtained mixture was stirred at 140° C. for 20 hours. The mixture was then concentrated under a reduced pressure. Thereafter, 360 ml of methanol and 25 g of chlorotrimethylsilane were added to the residue. The obtained solution was heated to reflux for 16 hours. The reaction solution was cooled and then concentrated under a reduced pressure. Water and ethyl acetate were added thereto, so as to divide an organic layer. The organic layer was separated, and then washed with a saturated sodium bicarbonate aqueous solution and a saturated sodium chloride solution. It was then dried over anhydrous magnesium sulfate. The mixture was filtered through 100 g of a silica gel layer, and then washed with ethyl acetate. Thereafter, the filtrate was concentrated under a reduced pressure. 0.9 g of 10% palladium carbon was added to 150 ml of a methanol solution containing the obtained crude product, and the mixture was intensively stirred in a hydrogen atmosphere. After completion of the reaction, the catalyst was removed by filtration, and the filtrate was concentrated under a reduced pressure. The obtained residue was purified by NH silica gel column chromatography (hexane/ethyl acetate), so as to obtain 11.5 g of the subject compound.

reactant | 3-nitro-4-methylbenzamide | 19.5 g | [N+](=O)([O-])C=1C=C(C(=O)N)C=CC1C | C8H8N2O3
reactant | dimethylformamide dimethyl acetal | 30 g | COC(N(C)C)OC | C5H13NO2
reactant | hydrogen | [H][H] | H2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 3-amino-4-(2,2-dimethoxyethyl)benzamide | 11.5 g | NC=1C=C(C(=O)N)C=CC1CC(OC)OC | C11H16N2O3
